US08530470B2
NaOH 2N (0.398 mL, 0.80 mmol) was added to methyl 8-[(2R)-(1-(3-fluorophenyl)pyrrolidin-2-yl)]-2-morpholino-4-oxo-4H-chromene-6-carboxylate (120 mg, 0.27 mmol) in a mixture of THF (2.4 mL) and MeOH (2.4 mL). The resulting solution was stirred at 25° C. over the weekend. HCl aq was added until pH ˜2. The solvents were removed under vacuum and the yellow solid was collected by filtration, washed with Diethyl ether to give 8-[(2R)-(1-(3-fluorophenyl)pyrrolidin-2-yl)]-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (100 mg, 86%). Mass Spectrum: m/z [M+H]+=439.

reactant | NaOH | 0.80 mmol, 2N, 0.398 mL | [OH-].[Na+]
reactant | methyl 8-[(2R)-(1-(3-fluorophenyl)pyrrolidin-2-yl)]-2-morpholino-4-oxo-4H-chromene-6-carboxylate | 0.27 mmol, 120 mg | FC=1C=C(C=CC1)N1[C@H](CCC1)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)OC | C25H25FN2O5
reactant | HCl | Cl | ClH
solvent | THF | 2.4 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2.4 mL | CO | CH4O
product | 8-[(2R)-(1-(3-fluorophenyl)pyrrolidin-2-yl)]-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 100 mg, 86% | FC=1C=C(C=CC1)N1[C@H](CCC1)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O | C24H23FN2O5
